US07291635B2
A solution of the title B compound, 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid (84 mg, 0.2 mmol) and 4-hydroxymethyl-benzoic acid t-butyl ester (42 mg, 0.2 mmol) in CH2Cl2 (3 mL) is treated with DMAP (12 mg, 0.1 mmol) and the reaction is cooled to 5° C. EDCl (39 mg, 0.2 mmol) is then added and the reaction is stirred for 16 h. The mixture is concentrated and partioned between EtOAc and 1N aqueous HCl. The organic solution is washed with saturated aqueous NaHCO3 and brine, dried over anhydrous MgSO4 and concentrated to give 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-t-butoxycarbonyl-benzyl ester as a white solid.

reactant | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid | 0.2 mmol, 84 mg | COC1=C(CN2C(CN(S2(=O)=O)CC2=CC=C(C(=O)O)C=C2)=O)C=CC(=C1)OC | C19H20N2O7S
reactant | 4-hydroxymethyl-benzoic acid t-butyl ester | 0.2 mmol, 42 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)CO)=O | C12H16O3
reactant | EDCl | 0.2 mmol, 39 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-t-butoxycarbonyl-benzyl ester | C(C)(C)(C)OC(=O)C1=CC=C(COC(C2=CC=C(C=C2)CN2S(NC(C2)=O)(=O)=O)=O)C=C1 | C22H24N2O7S
